US04602014
A solution of 10.96 g of N-methoxycarbonyl-3-(2-ethoxycarbonyl-3-dimethylaminoacryloyl)-4-pyrrolidino-2,5-dihydropyrrole and 20 g of ammonium acetate in 250 ml of dry ethanol is refluxed for 90 minutes. The solution is cooled in an ice bath and the precipitate is filtered off to yield ethyl 4-hydroxy-5,7-dihydro-6-methoxycarbonylpyrrolo[3,4-b]pyridine-3-carboxylate, mp 274°-6°(dec); NMR (CF3COOD): 11.08 (s), 9.14 (s), 5.20 (s), 5.00 (s), 4.65 (q), 3.99 (s) and 1.52 (t).

reactant | N-methoxycarbonyl-3-(2-ethoxycarbonyl-3-dimethylaminoacryloyl)-4-pyrrolidino-2,5-dihydropyrrole | 10.96 g | COC(=O)N1CC(=C(C1)N1CCCC1)C(C(=CN(C)C)C(=O)OCC)=O | C18H27N3O5
reactant | ammonium acetate | 20 g | C(C)(=O)[O-].[NH4+]
solvent | ethanol | 250 ml | C(C)O | C2H6O
product | ethyl 4-hydroxy-5,7-dihydro-6-methoxycarbonylpyrrolo[3,4-b]pyridine-3-carboxylate | OC1=C2C(=NC=C1C(=O)OCC)CN(C2)C(=O)OC | C12H14N2O5
